US06211199B1
(1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
Combine (1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine (0.98 g, 2.67 mmol), potassium hydroxide (1.8 g, 32 mmol) in isopropanol (18 mL) containing 1 drop of water. Heat to reflux. After 18 hours, cool, add water, and extract four times with dichloromethane (200 mL). Combine the organic layers, dry over MgSO4, filter, and concentrate in vacuo to give the title compound: Rf=0.40 (silica gel, ethyl acetate).

reactant | (1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine | 2.67 mmol, 0.98 g | O1C=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C20H24N4O3
reactant | potassium hydroxide | 32 mmol, 1.8 g | [OH-].[K+]
reactant | water | O | H2O
solvent | isopropanol | 18 mL | C(C)(C)O | C3H8O
catalyst | water | 1 drop | O | H2O
product | (1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | O1C=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C17H20N4O
